US04433152
A mixture of 4 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 9.3 g of bis-(p-phenylphenyl)sulfite prepared from p-phenylphenol and thionyl chloride, 40 ml of dry dimethylformamide and 8 ml of dry pyridine was stirred at room temperature for 3 hours. The solvent was removed under reduced pressure, and the residue was crystallized from methanol-ethyl acetate to obtain 4 g (yield: 61%) of p-phenylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless needls having a melting point of 200° to 203° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(p-phenylphenyl)sulfite | 9.3 g | C1(=CC=CC=C1)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C1=CC=CC=C1 | C24H18O3S
reactant | p-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | p-phenylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 4 g, yield: 61% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C21H25N3O2.ClH/c22-21(23)24-14-12-16(13-15-24)6-11-20(25)26-19-9-7-18(8-10-19)17-4-2-1-3-5-17;/h1-5,7-10,16H,6,11-15H2,(H3,22,23);1H
